US04672068
398 mg (1 mM) of 4-(3-nitrophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid 3-(2,4-hexadienyl)ester, 108 mg (1.1 mM) of 2,4-hexadien-1-ol, 227 mg (1.1 mM) of dicyclohexylcarbodiimide and 134 mg (1.1 mM) of 4-dimethylaminopyridine were dissolved in 20 ml of dichloroethane, and refluxed for 2 hours. Insoluble matters were filtered off, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography, and 428 mg (89.4%) of bis(2,4-hexadienyl) 4-(3-nitrophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate was obtained (yield 89.4%).

reactant | 4-(3-nitrophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid 3-(2,4-hexadienyl)ester | 1 mM, 398 mg | C(C=CC=CC)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O)C)C | C21H22N2O6
reactant | 2,4-hexadien-1-ol | 1.1 mM, 108 mg | C(C=CC=CC)O | C6H10O
reactant | dicyclohexylcarbodiimide | 1.1 mM, 227 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 1.1 mM, 134 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
product | bis(2,4-hexadienyl) 4-(3-nitrophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 428 mg, 89.4% | [N+](=O)([O-])C=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCC=CC=CC)C)C)C(=O)OCC=CC=CC | C27H30N2O6
